US07528160B2
{6-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-benzo[b]thiophen-3-yl}-acetic acid
To a solution of 5-chloromethyl-4-isopropyl-2-(4-trifluoromethyl-phenyl)-thiazole (100 mg, 0.31 mmol) and (6-Hydroxy-benzo[b]thiophen-3-yl)-acetic acid ethyl ester (75 mg, 0.31 mmol) in acetonitrile (3 mL) is added Cs2CO3 (200 mg, 0.62 mmol). The mixture is stirred at room temperature overnight, ethanol (1 mL) is added, followed by NaOH (5 N, 1.0 mL). The mixture is heated at 50° C. for 2 hrs, solvent is evaporate, the residue is diluted with water, acidified by 5N HCl and extracted with ethyl acetate. Concentration and reversed phase HPLC purification yields the title product. MS (ES): 490.0 (M+−1).

reactant | 5-chloromethyl-4-isopropyl-2-(4-trifluoromethyl-phenyl)-thiazole | 0.31 mmol, 100 mg | ClCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C(C)C | C14H13ClF3NS
reactant | (6-Hydroxy-benzo[b]thiophen-3-yl)-acetic acid ethyl ester | 0.31 mmol, 75 mg | C(C)OC(CC=1C2=C(SC1)C=C(C=C2)O)=O | C12H12O3S
reactant | Cs2CO3 | 0.62 mmol, 200 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NaOH | 5 N, 1.0 mL | [OH-].[Na+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | {6-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-benzo[b]thiophen-3-yl}-acetic acid | C(C)(C)C=1N=C(SC1COC=1C=CC2=C(SC=C2CC(=O)O)C1)C1=CC=C(C=C1)C(F)(F)F | C24H20F3NO3S2
